US09358231B2
D. tert-butyl 5-((diethoxyphosphoryl)methyl)pyrazin-2-ylcarbamate
tert-butyl 5-(bromomethyl)pyrazin-2-ylcarbamate (2.5 g, 8.71 mmol) and triethylphosphite (1.8 ml, 10.45 mmol) were placed in a 25 mL round bottom flask. A distillation apparatus was attached to collect the poisonous ethyl bromide formed during the reaction. The reaction mixture was heated to 140° C. for 30 minutes and then cooled to room temperature. The reaction mixture was purified by flash column chromatography (10% to 30% Ethyl acetate/Hexane) to afford title product (1.8 g, 60% yield). 1H NMR (600 MHz, CDCl3) δ 9.19 (s, 1H), 8.22 (t, J=1.8 Hz, 1H), 7.37 (s, 1H), 4.12-4.07 (m, 4H), 3.38 (s, 1H), 3.34 (s, 1H), 1.54 (s, 9H), 1.29 (t, J=7.2 Hz, 6H). MS m/z: 346 [M+1].

reactant | tert-butyl 5-(bromomethyl)pyrazin-2-ylcarbamate | 8.71 mmol, 2.5 g | BrCC=1N=CC(=NC1)NC(OC(C)(C)C)=O | C10H14BrN3O2
reactant | triethylphosphite | 10.45 mmol, 1.8 ml | C(C)OP(OCC)OCC | C6H15O3P
product | tert-butyl 5-((diethoxyphosphoryl)methyl)pyrazin-2-ylcarbamate | 1.8 g, 60% yield | C(C)OP(=O)(OCC)CC=1N=CC(=NC1)NC(OC(C)(C)C)=O | C14H24N3O5P
